US05493046
ethyl 2-butyl-1-((4-1,3,2-benzodioxaborol-2-yl)-benzyl)-4-(methylthio)-1H-imidazole-5-carboxylate (product 8)
Using the procedure of Preparation 4, 1 g of ethyl 1-[(4-boronophenyl)-methyl]-2-butyl-4-(methylthio)-1H-imidazole-5-carboxylate and 0.293 g of catechol were reacted to obtain the desired product.

reactant | ethyl 1-[(4-boronophenyl)-methyl]-2-butyl-4-(methylthio)-1H-imidazole-5-carboxylate | 1 g | B(O)(O)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)SC)CCCC | C18H25BN2O4S
reactant | catechol | 0.293 g | C=1(O)C(O)=CC=CC1 | C6H6O2
product | ethyl 2-butyl-1-((4-1,3,2-benzodioxaborol-2-yl)-benzyl)-4-(methylthio)-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)SC)C(=O)OCC)CC1=CC=C(C=C1)B1OC2=C(O1)C=CC=C2 | C24H27BN2O4S
